US07026335B2
Preparation of 4-cyclohexyl-4-methanesulfonyloxymethylpiperidine-1-carboxylic acid tert-butyl ester (4):
Methane sulfonyl chloride (1.8 mL, 23.0 mmol) is added to a stirred solution of 4-cyclohexyl-4-hydroxymethylpiperidine-1-carboxylic acid tert-butyl ester, 3, (3.42 g, 11.48 mmol) and triethylamine (4.8 mL, 2.8 mmol) in dichloromethane (30 mL) at 0° C. The reaction mixture is then allowed to warm to room temperature and stir for 1 hour. The reaction is quenched with a saturated solution of NaHCO3 and the resulting mixture is extracted twice with dichloromethane (50 mL). The organic layers are combined, dried, filtered and concentrated in vacuo to yield the desired product in quantitative yield. The material is used for the next step without need for purification.

reactant | Methane sulfonyl chloride | 23.0 mmol, 1.8 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-cyclohexyl-4-hydroxymethylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)C1CCCCC1 | C17H31NO3
reactant | triethylamine | 2.8 mmol, 4.8 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-cyclohexyl-4-methanesulfonyloxymethylpiperidine-1-carboxylic acid tert-butyl ester | quantitative yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(COS(=O)(=O)C)C1CCCCC1 | C18H33NO5S
